datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>C[C:72]1=[CH:71][N:10]([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[CH:61]=[N:62]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C(C)(C)C)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][CH:61]=[O:62])C=C1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:61]=[O:62])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].C[N+:21](C)=[CH2:20]>>CC[O:92][C:61]([C:10](OC)([CH2:20][N:21](C)C)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)CC[N:63]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:11](=[CH2:10])C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH2:10][C+:11]2CCC2)[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1>>C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-2:21]2([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)C(C3=CC=CC=C3)C2[CH2:20][CH:10]2CCC[C:11]2=[N+:12]2CCCCC2)C=C1 10,11=10,20;12=11,12;20,21=21"
CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)(C2=CC=CC=C2)[C:81]([C:62]2=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64](C3=CC=CC=C3)[N:63]2C2=C(C)C=C(C)C=C2C)=[O:82])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@@H](C(C)C)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CC[C:63]2=[C:62]1[CH:73]=[CH:74][CH:65]=[CH:64]2>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CC[C:63]2=[C:62]([C:11]1=[O+:12][Si:73](C)(C)C)[CH:73]=[CH:74][CH:65]=[CH:64]2)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"N#C/[CH:20]=[CH:21]/[C:22]#[N:23].[N:10]1=[C:11]([O-:12])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>N#C[CH:20]([N:10]1[C:11](=[O:12])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1)[CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C23C4C5C6C2[Zr:11]56432789(C)([CH3:10])C3C2C7C18C39.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C23C4C5C6C2[Zr+:11]56432789(C)C3C2C7C18C39.N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH3:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
